Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Coronary angio s/p 2 DES to RCA - ___ 

 
History of Present Illness:
___ hx of recently diagnosed HTN, HLD, not on medications, who
presents with chest pain.

He reports that he woke up feeling lightheaded, short of breath,
and diaphoretic. Also had chest pain, described as pressure like
midsternal that radiated to the back. Also with some mild
abdominal discomfort as well. He felt very short of breath, that
he had to rest while making a sandwich for his son. He went to
the PCP, where EKG was unremarkable and was recommended to go to
the ED. He denies any fevers, chills, cough, URI sx, diarrhea,
melena, dysuria, swelling in his legs. In the ED, patient 
reports
that his chest pain started to decline since arriving to the ED,
even prior to getting SLNTG. There was a holdup in giving SLNTG,
as patient's BP were persistently less than ___. He received 2L
LR with some improvement in his BP and was then given SLNTG. 

Of note, patient recently diagnosed at PCP ___ ___ with HTN,
BP~140s, and HLD. He was recommended to take atorvastatin, but 
pt
declined given the side effect profile. Instead, he did 
intensive
lifestyle modification, following dash diet, and exercises every
single day (from previous once a week). He has lost over 20
pounds since ___, and he states he has never been in a
better shape. Of note, FHx notable for father who had MI at age
___ ___s DM. 
 
In the ED, initial vitals: 97.7 71 108/61 18 100% RA 
- Exam unremarkable
- Labs notable for:  
Trop 0.37

   14.8
___  
------------<125 
4.8  25  1.2  

- Imaging notable for:
CTA chest:
No evidence of pulmonary embolism or acute aortic abnormality. 
No
acute intrathoracic process.  

Bedside TTE - negative for pericardial effusion

Consults:
Currently pain free, no notable ECG changes. Medical management
of NSTEMI for now, agree with admission for cath.

- Pt given:  1L LR, SLNTG, morphine IV 4mg, heparin gtt,
atorvastatin 80. 

- Vitals prior to transfer: 78 116/46 16 96% RA

Upon arrival to the floor, the patient reports history as above.
He states that his chest pain has now resolved and that he is
thirsty.

REVIEW OF SYSTEMS:  
A 10-point ROS was taken and is negative except otherwise stated
in the HPI. 

 
Past Medical History:
HTN
HLD
Testosterone Deficiency on testosterone supplement
 
 
Social History:
___
Family History:
Father - MI at age ___, DM
Mother - GI cancer
Brother - healthy

 
Physical ___:
ADMISSION PHYSICAL EXAM:  
========================
VITALS: 97.8 91/59 61 16 97% RA  
General: Laying comfortably in bed in no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL
NECK: JVP not elevated
CV: RRR. S1, S2. No mrg. No TTP over chest
Lungs: CTA b/l. Unlabored breathing.   
Abdomen: Soft, NTND. +BS 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CNII-XII grossly intact. No focal deficits. Moving all
extremities.  

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 425)
    Temp: 97.9 (Tm 98.4), BP: 107/70 (93-112/56-70), HR: 78
(70-78), RR: 16 (___), O2 sat: 97% (95-99), O2 delivery: Ra  
General: Laying comfortably in bed in no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL
NECK: JVP not elevated
CV: RRR. S1, S2. No mrg. No TTP over chest
Lungs: CTA b/l. Unlabored breathing.   
Abdomen: Soft, NTND. +BS 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CNII-XII grossly intact. No focal deficits. Moving all
extremities.  
 
Pertinent Results:
ADMISSION LABS:
===============

___ 09:22PM BLOOD WBC-18.0* RBC-5.21 Hgb-14.8 Hct-45.5 
MCV-87 MCH-28.4 MCHC-32.5 RDW-14.0 RDWSD-44.5 Plt ___
___ 09:22PM BLOOD Neuts-85.6* Lymphs-9.5* Monos-4.2* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-15.42* AbsLymp-1.72 
AbsMono-0.76 AbsEos-0.02* AbsBaso-0.04
___ 09:22PM BLOOD ___ PTT-28.8 ___
___ 09:22PM BLOOD Glucose-125* UreaN-21* Creat-1.2 Na-143 
K-4.8 Cl-104 HCO3-25 AnGap-14
___ 09:22PM BLOOD ALT-35 AST-93* LD(LDH)-255* CK(CPK)-980* 
AlkPhos-65 TotBili-0.3
___ 09:22PM BLOOD cTropnT-0.37*
___ 09:22PM BLOOD CK-MB-76* MB Indx-7.8*
___ 09:22PM BLOOD Calcium-10.1 Phos-3.9 Mg-2.4
___ 01:05AM BLOOD Lactate-0.9

RELEVANT LABS:
==============

___ 09:22PM BLOOD cTropnT-0.37*
___ 01:00AM BLOOD CK-MB-96* cTropnT-0.64*
___ 04:48AM BLOOD CK-MB-134* cTropnT-1.31*
___ 01:17PM BLOOD CK-MB-153* cTropnT-3.66*
___ 04:25AM BLOOD CK-MB-54* cTropnT-4.64*
___ 12:53PM BLOOD CK-MB-33* cTropnT-3.13*
___ 04:48AM BLOOD Triglyc-99 HDL-40* CHOL/HD-4.0 
LDLcalc-101
___ 04:48AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.3 Cholest-161
___ 04:48AM BLOOD %HbA1c-5.5 eAG-111

IMAGING:
=======

Coronary CATH ___:
The left main is without significant disease.
The left anterior descending is with 50% proximal.
The circumflex is with mild irregularities throughout.
The right coronary artery is with ___ diffuse proximal 
disease followed by mid subtotal thrombotic
occlusion and TIMI 2 flow beyond. 

TTE ___:
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size.
There is normal regional left ventricular systolic function. 
Quantitative 3D volumetric left ventricular ejection fraction is 
62 %. Global longitudinal strain is depressed (-17.1 %; normal 
less than -20%) Mildly
dilated right ventricular cavity with moderate global free wall 
hypokinesis. Tricuspid annular plane systolic
excursion (TAPSE) is depressed. The aortic sinus diameter is 
normal for gender with normal ascending aorta diameter for 
gender. The aortic arch diameter is normal. The aortic valve 
leaflets (3) appear structurally
normal. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is mild [1+] mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is mild [1+] tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion.
IMPRESSION: 1) Mild ischemic cardiomyopathy c/w prior myocardial 
infarction in RCA territory. Normal radial contractile function 
in setting of mild reduction in global longitudinal strain.

CTA ___:
  
1. No evidence of pulmonary embolism or acute aortic 
abnormality. No acute 
intrathoracic process. 
2. Diffuse bronchial wall thickening may reflect chronic small 
airway disease. 
3. Mild bilateral gynecomastia. 

CXR ___:
=No acute intrathoracic process.

DISCHARGE LABS:
==============

___ 04:25AM BLOOD WBC-13.1* RBC-4.24* Hgb-12.1* Hct-37.7* 
MCV-89 MCH-28.5 MCHC-32.1 RDW-14.5 RDWSD-46.6* Plt ___
___ 04:25AM BLOOD Glucose-117* UreaN-17 Creat-1.1 Na-142 
K-4.3 Cl-107 HCO3-25 AnGap-___RIEF HOSPITAL COURSE:
======================
___ hx of recently diagnosed HTN, HLD, not on medications, who 
presents with chest pain and found to have a type 1 NSTEMI with 
midsubtotal thrombitic occlusion in the RCA s/p DES x2 given 
concern for small dissection. 

COR: LAD 50% proximal stenosis, LCx mild irregularities 
throughout, RCx ___ diffuse ___ dx with midsubtotal 
thrombotic occlusion s/p DES x2 to the RCA.
PUMP: 62% EF 
Rhythm: sinus 

#Type 1 NSTEMI
#CAD 
Patient presented with chest pain and found to have an NSTEMI 
with troponin elevated to peak of 4.64. EKG showed q waves in 
the inferior leads with nonspecific ST segment changes. CTA 
without evidence of aortic dissection or PA. Was loaded with 
aspirin and initially on a heparin gtt. Echo showed EF 62% with 
dilated right ventricular cavity with moderate global free wall 
hypokinesis consistent with the RCA infarct seen on coronary 
cath. Had 2 DES placed in the RCA. Risk factors include HLD and 
started on atorvastatin 80mg daily and testosterone use for low 
energy and low testosterone. A1C of 5.5%. The patient has made 
significant lifestyle modifications including starting a DASH 
diet and daily exercise. Regimen includes: aspirin 81mg daily, 
metoprolol succinate 25mg BID, lisinopril 2.5mg daily, and 
atorvastatin 80mg daily. 

#Leukocytosis
WBC elevated to max of 18 iso stress from NSTEMI. No localizing 
symptoms for infection with CTA without evidence of pneumonia. 

TRANSITIONAL ISSUES:
=====================
[] Would benefit from cardiac rehab 
[] Recommend stopping testosterone. 
[] continue DAPT for at least 12 months (until ___ and may 
continue for longer. Aspirin 81mg indefinitely. 
[] Uptitrate lisinopril and metoprolol as tolerated by BP. 

#CODE: Full confirmed
#CONTACT:
Next of Kin: ___ 
 Relationship: WIFE 
 Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Testosterone Cypionate 100 mg IM QWEEK 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0 
4.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
5.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
6.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
DIAGNOSIS:
==========
Coronary artery disease
Type 1 NSTEMI  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had chest pain 
consistent with a heart attack. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were started multiple medications as below for your heart 
attack to prevent further disease from developing.
- You had a coronary angiogram which showed a blockage in one of 
the arteries that supple blood to the heart and 2 stents were 
placed in your right coronary artery.
- Continue taking aspirin and Plavix to prevent your stents from 
clotting off. 

WHAT SHOULD I DO WHEN I GO HOME?
- Continue to discuss with your doctors regarding your 
___ injections. This increases your risk of developing 
heart disease. 
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___